US08877970B2
3-(3-(2-fluoro-4-iodophenyl)thioureido)benzenesulfonamide (MIP-1150)
The subject compound was prepared utilizing the procedure described above from 3-isothiocyanatobenzenesulfonamide and 2-fluoro-4-iodoaniline. 1H NMR (400 MHz, DMSO-d6) δ 10.19 (s, 1H), 9.67 (s, 1H), 7.96 (m, 1H), 7.70 (m, 2H), 7.58-7.49 (m, 3H), 7.38 (bs, 3H); (M+H)+ (452).

reactant | 3-isothiocyanatobenzenesulfonamide | N(=C=S)C=1C=C(C=CC1)S(=O)(=O)N | C7H6N2O2S2
reactant | 2-fluoro-4-iodoaniline | FC1=C(N)C=CC(=C1)I | C6H5FIN
product | 3-(3-(2-fluoro-4-iodophenyl)thioureido)benzenesulfonamide | FC1=C(C=CC(=C1)I)NC(NC=1C=C(C=CC1)S(=O)(=O)N)=S | C13H11FIN3O2S2
